US06825353B2
N-Methyl-N-methoxy-1-[1-(R)-phenylethyl]-5-oxopyrrolidine-3-(R)-carboxamide
Oxalyl chloride (6.54 ml, 0.075 mol) and dimethylformamide (3 drops) were added to ice-cooled dichloromethane solution (200 ml) of 1-[1-(R)-phenylethyl]-5-oxopyrrolidine-3-(R)-carboxylic acid (11.66 g, 0.05 mol), and the mixture was stirred overnight at room temperature. After evaporation of the solvent under a reduced pressure, toluene (100 ml) was added and the solvent was again evaporated under a reduced pressure. Dichloromethane (200 ml) and N,O-methylhydroxylamine hydrochloride (5.47 g, 0.055 mol) were added to the resulting residue and, while ice-cooling and stirring, dichloromethane solution (50 ml) of triethylamine (17.4 ml, 0.125 mol) was added dropwise thereto in 15 minutes. After 30 minutes of stirring under ice-cooling, this was stirred at room temperature for 3 hours. The reaction solution was washed with 10% citric acid aqueous solution (100 ml), water (100 ml) and saturated sodium bicarbonate aqueous solution (100 ml) in that order, and then dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure and the residue was subjected to a silica gel column chromatography. By eluting with a chloroform:methanol of from (50:1) to (20:1), 11.32 g (82%) of the title compound was obtained as a brown oil.

reactant | Oxalyl chloride | 0.075 mol, 6.54 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-[1-(R)-phenylethyl]-5-oxopyrrolidine-3-(R)-carboxylic acid | 0.05 mol, 11.66 g | C1(=CC=CC=C1)[C@@H](C)N1C[C@@H](CC1=O)C(=O)O | C13H15NO3
reactant | triethylamine | 0.125 mol, 17.4 ml | C(C)N(CC)CC | C6H15N
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-Methyl-N-methoxy-1-[1-(R)-phenylethyl]-5-oxopyrrolidine-3-(R)-carboxamide | 11.32 g, 82% | CN(C(=O)[C@H]1CN(C(C1)=O)[C@H](C)C1=CC=CC=C1)OC | C15H20N2O3
